US04514414
The above prepared methyl 1-benzyl-3-pyrrolidineacetate hexamate was reduced in three portions, using 3.9 g. of 10% palladium on carbon in 200 ml. of absolute ethanol, for one hour at 50° C. The reaction mixture was filtered and concentrated to give methyl 3-pyrrolidineacetate hexamate, m.p. 68.5°-69.5° C.

reactant | methyl 1-benzyl-3-pyrrolidineacetate | C(C1=CC=CC=C1)N1CC(CC1)CC(=O)OC | C14H19NO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | methyl 3-pyrrolidineacetate | N1CC(CC1)CC(=O)OC | C7H13NO2
